US20010007877A1
Preparation of 1-(4-trifluoromethylphenyl)methyl-3-(2-aminoethyl)-5-(2-naphthyl)methyloxyindole trifluoroacetate
To a solution of 3-[2-(tert-butoxycarbonylamino)ethyl]-5-hydroxyindole (0.25 g, 0.9 mmol) in acetone (10 mL) was added 2-bromomethylnaphthalene (0.22 g, 1.0 mmol), potassium carbonate (0.38 g, 2.7 mmol), and potassium iodide (0.015 g, 0.09 mmol). The mixture was allowed to stir at room temperature for 5 d, then was filtered through Celite and concentrated. The residue was dissolved in dimethylformamide (3 mL), and sodium hydride (0.01 g, 0.4 mmol) was added. The mixture was allowed to stir at room temperature for 30 min, at which point 0.25M 4-trifluoromethylbenzyl bromide in dimethylformamide (1 mL) was added. The mixture stirred at room temperature for 16 h, and Argonaut's PS-thiophenol resin was added to remove excess 4-trifluoromethylbenzyl bromide. After 2 d of additional stirring, the mixture was filtered and concentrated. The residue was diluted with diethyl ether (5 mL) and treated with 4 N HCl in dioxane (2 mL). The solution stirred at room temperature for 2 h and was concentrated. The residue was purified by preparative HPLC (gradient, 10-90% acetonitrile/water+0.1% trifluoroacetic acid, 15 min run) to furnish the title compound. MS (ES+) m/e 475 [M+H]+, 493

reactant | 3-[2-(tert-butoxycarbonylamino)ethyl]-5-hydroxyindole | 0.9 mmol, 0.25 g | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)O | C15H20N2O3
reactant | 2-bromomethylnaphthalene | 1.0 mmol, 0.22 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | 2.7 mmol, 0.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.09 mmol, 0.015 g | [I-].[K+]
reactant | sodium hydride | 0.4 mmol, 0.01 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 0.25M | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(4-trifluoromethylphenyl)methyl-3-(2-aminoethyl)-5-(2-naphthyl)methyloxyindole trifluoroacetate | FC(C(=O)O)(F)F.FC(C1=CC=C(C=C1)CN1C=C(C2=CC(=CC=C12)OCC1=CC2=CC=CC=C2C=C1)CCN)(F)F | InChI=1S/C29H25F3N2O.C2HF3O2/c30-29(31,32)25-9-6-20(7-10-25)17-34-18-24(13-14-33)27-16-26(11-12-28(27)34)35-19-21-5-8-22-3-1-2-4-23(22)15-21;3-2(4,5)1(6)7/h1-12,15-16,18H,13-14,17,19,33H2;(H,6,7)
